US06297198B1
To a solution of 3-cyclopropyl-2-(bis(methylthio)methylene)-1-(2-chloro-4-methylsulfonylphenyl)propan-1,3-dione (123 mg, 0.304 mmol) in ethanol (15 mL) was added hydroxylamine hydrochloride (23 mg, 0.334 mmol) and sodium acetate (25 mg, 0.304 mmol). The resulting mixture was stirred at r.t. overnight, then evaporated to dryness and the residue was taken up in ethyl acetate, washed with water, dried and evaporated to dryness. The crude product was purified by preparative Thin-layer chromatography to give 90 mg of crystalline 5-cyclopropyl-3-methylthio-4-(2-chloro-4-methylsulfonylbenzoyl)isoxazole, m.p. 141° C.

reactant | 3-cyclopropyl-2-(bis(methylthio)methylene)-1-(2-chloro-4-methylsulfonylphenyl)propan-1,3-dione | 0.304 mmol, 123 mg | C1(CC1)C(C(C(=O)C1=C(C=C(C=C1)S(=O)(=O)C)Cl)=C(SC)SC)=O | C16H17ClO4S3
reactant | hydroxylamine hydrochloride | 0.334 mmol, 23 mg | Cl.NO
reactant | sodium acetate | 0.304 mmol, 25 mg | C(C)(=O)[O-].[Na+]
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 5-cyclopropyl-3-methylthio-4-(2-chloro-4-methylsulfonylbenzoyl)isoxazole | 90 mg | C1(CC1)C1=C(C(=NO1)SC)C(C1=C(C=C(C=C1)S(=O)(=O)C)Cl)=O | C15H14ClNO4S2
